US04157393
From 6 parts of N-[1-(1-methylethyl)-4-piperidinyl]-N-phenyl-2-thiopheneacetamide (E)-2-butenedioate, the free base is liberated in the conventional manner with a diluted sodium hydroxide solution. The product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The residue is converted into the ethanedioate salt in 2-propanol. The salt is filtered off and dried, yielding 3.2 parts of N-[1-(1-methylethyl)-4-piperidinyl]-N-phenyl-2-thiopheneacetamide ethanedioate; mp. 167.4° C.

reactant | N-[1-(1-methylethyl)-4-piperidinyl]-N-phenyl-2-thiopheneacetamide (E)-2-butenedioate | C(\C=C\C(=O)O)(=O)O.CC(C)N1CCC(CC1)N(C(CC=1SC=CC1)=O)C1=CC=CC=C1
reactant | sodium hydroxide | [OH-].[Na+]
product | N-[1-(1-methylethyl)-4-piperidinyl]-N-phenyl-2-thiopheneacetamide ethanedioate | C(C(=O)O)(=O)O.CC(C)N1CCC(CC1)N(C(CC=1SC=CC1)=O)C1=CC=CC=C1 | InChI=1S/C20H26N2OS.C2H2O4/c1-16(2)21-12-10-18(11-13-21)22(17-7-4-3-5-8-17)20(23)15-19-9-6-14-24-19;3-1(4)2(5)6/h3-9,14,16,18H,10-13,15H2,1-2H3;(H,3,4)(H,5,6)
